US08633200B2
To a stirred mixture of 6-bromo-7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine (0.179 g, 0.5 mmol) and copper(I) bromide (0.036 g, 0.250 mmol) in THF (3 mL) was added dropwise over 10 min a pre-mixed solution of 1M p-tolylmagnesiumbromide/THF (3.00 ml, 3.00 mmol) and 0.5M LiCl/THF (6.00 ml, 3.00 mmol) at rt. After 2.5 h, methyl 2-chloro-2-oxoacetate (0.552 ml, 6 mmol) was added at once and stirred overnight at rt. Then, the reaction was diluted with Et2O (50 mL), quenched with Na2CO3 (1 mL), washed with 10 mL each water and brine, dried (Na2SO4), filtered and concentrated to give orange paste which was purified by prep-HPLC to afford methyl 2-(2-(3-chlorophenyl)-5-methyl-7-(p-tolyl)pyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate (0.103 g, 0.123 mmol, 24.53% yield) as yellow solid which is contaminated with impurity. 1H NMR (500 MHz, CDCl3) δ: 7.95 (d, J=0.9 Hz, 1H), 7.81 (td, J=4.4, 1.5 Hz, 1H), 7.62 (d, J=8.2 Hz, 2H), 7.40 (d, J=7.6 Hz, 2H), 7.38-7.36 (m, 2H), 6.99 (s, 1H), 3.39 (s, 3H), 2.71 (s, 3H), 2.71 (s, 3H). LCMS (M+H) calcd for C23H19ClFN3O3: 420.11. found: 420.2.

reactant | 6-bromo-7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine | 0.5 mmol, 0.179 g | BrC=1C(=NC=2N(C1Cl)N=C(C2)C2=CC(=CC=C2)Cl)C | C13H8BrCl2N3
reactant | p-tolylmagnesiumbromide THF | 3.00 mmol, 1M, 3.00 ml | C1(=CC=C(C=C1)[Mg]Br)C.C1CCOC1
reactant | LiCl THF | 3.00 mmol, 0.5M, 6.00 ml | [Li+].[Cl-].C1CCOC1
reactant | methyl 2-chloro-2-oxoacetate | 6 mmol, 0.552 ml | ClC(C(=O)OC)=O | C3H3ClO3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | Et2O | 50 mL | CCOCC | C4H10O
catalyst | copper(I) bromide | 0.250 mmol, 0.036 g | [Cu]Br
product | methyl 2-(2-(3-chlorophenyl)-5-methyl-7-(p-tolyl)pyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 0.123 mmol, 0.103 g, 24.53% yield | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2C2=CC=C(C=C2)C)C(C(=O)OC)=O)C)=C1 | C23H18ClN3O3
